Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: PLASTIC
 
Allergies: 
Erythromycin Base / Minocin / Bactrim / tetracycline
 
Attending: ___.
 
Chief Complaint:
Right Breast Cancer
 
Major Surgical or Invasive Procedure:
Right immediate implant reconstruction after nipple sparing 
mastectomy with AlloDerm sling.

 
History of Present Illness:
This is a lovely ___ whose annual
mammogram showed two new lesions which were scored at ___ and found to be two separate areas of ductal
carcinoma.  Dx'd ___ s/p U/S guided core biopsy of masses seen 
on U/S that were areas of asymmetry on mammography; ER+, PR +, 
Her-2 2+. She wished to proceed with a mastectomy.  She also 
elected to proceed with a
nipple sparing mastectomy plus immediate implant reconstruction. 

 
Past Medical History:
Solid papillary carcinoma in situ of breast 
Infiltrating ductal carcinoma of breast, right   
Nuclear sclerotic cataract 
Corneal neovascularization of both eyes 
PVD (posterior vitreous detachment)
Colon polyp  
Hypercholesterolemia 
Multinodular thyroid [E04.2] 
Allergic rhinitis due to pollen and dust 
Vitamin D insufficiency 
Obesity (BMI ___ 
Fibroadenoma of breast, left [D24.2] 
Hypertension, essential [I10] 
Positive PPD [R76.11] 
Sickle-cell trait [D57.3] 

 
Social History:
___
Family History:
Diabetes
 
Physical Exam:
vitals reviewed in e-chart, stable
nad
nonlabored + reg respirations
R breast soft, nitropaste/dressing in place. drain 80 cc, 
sanginous. right mastectomy flap well perfused, NAC well 
perfused. No sign
of hematoma. 
extremities warm

 
Brief Hospital Course:
___ Female underwent elective right mastectomy with implant 
reconstruction on ___. She tolerated the procedure well, and 
she had a normal post-operative course. On the morning of POD1, 
she was voiding good urine output, eating a regular diet, and 
walking the halls. She was deemed appropriate for discharge home 
with ___ care as she still has a JP drain in her left axilla and 
lives alone. 
 
Medications on Admission:
 SPIRONOLACTONE 50 MG TAB Take 1 tablet by mouth daily 
 ATENOLOL 25 MG TAB Take 1 tablet by mouth daily 
 ATORVASTATIN 20 MG TAB Take 1 tablet by mouth daily 
 cholecalciferol, vitamin D3, (VITAMIN D3) 1,000 unit Oral 
tablet Take 1 tablet daily 
  MULTIVITAMIN ORAL 1 tab daily 
  Cetirizine (ZYRTEC) 10 mg Oral capsule 1 tab daily as needed 

 
Discharge Medications:
1.  Acetaminophen 650 mg PO Q6H pain, HA, T>100 degrees  
2.  cefaDROXil 500 mg oral BID 
RX *cefadroxil 500 mg 1 capsule(s) by mouth every twelve (12) 
hours Disp #*14 Capsule Refills:*0 
3.  Docusate Sodium 100 mg PO BID 
RX *docusate sodium 100 mg 1 capsule(s) by mouth twice a day 
Disp #*20 Capsule Refills:*0 
4.  OxyCODONE (Immediate Release) 10 mg PO Q4H:PRN Pain - 
Moderate 
  Reason for PRN duplicate override: ordered for floor
RX *oxycodone 5 mg ___ tablet(s) by mouth every four (4) hours 
Disp #*25 Tablet Refills:*0 
5.  Atenolol 25 mg PO DAILY  
6.  Atorvastatin 20 mg PO QPM  
7.  Spironolactone 50 mg PO BID  

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Right breast cancer.

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Please get plenty of rest, continue to ambulate several times 
per day, and drink adequate amounts of fluids.  

Personal Care: 
 1. You will have a drain in place for discharge home.  
 2. Visiting nurses ___ come to assist you with maintenance of 
the drain and to help with wound care.
 3. While drain is in place, please clean around the drain site 
 4. A written record of the daily output from the drain should 
be brought to every follow-up appointment. 
 5. Wear the surgibra at ALL times except when showering
 6. You may shower tomorrow with assistance as needed.  
 7. No baths until after directed by your surgeon. 

Activity: 
 1. Avoid strenuous activity until re-evaluation at your 
follow-up appointment. Do not lift more than 5lbs. 
 2. Do not lift your right arm away from your side more than 30 
degrees.

Medications: 
 1. Resume your regular medications unless instructed otherwise 
and take any new meds as ordered. 
 2. You may take your prescribed pain medication for moderate to 
severe pain. Please switch to Tylenol or Extra Strength Tylenol 
for mild pain as directed on the packaging. Please note that 
Percocet and Vicodin have Tylenol as an active ingredient so do 
not take these meds with additional Tylenol. 
 3. Take prescription pain medications for pain not relieved by 
Tylenol. 
 4. Take Colace, 100 mg by mouth 2 times per day, while taking 
the prescription pain medication. You may use a different 
over-the-counter stool softener if you wish. 
 5. Do not drive or operate heavy machinery while taking any 
narcotic pain medication. You may have constipation when taking 
narcotic pain medications (oxycodone, percocet, vicodin, 
hydrocodone, dilaudid, etc.); you should continue drinking 
fluids, you may take stool softeners, and should eat foods that 
are high in fiber.  

Call the office IMMEDIATELY if you have any of the following: 
 1. Signs of infection: fever with chills, increased redness, 
swelling, warmth or tenderness at the surgical site, or unusual 
drainage from the incision(s). 
 2. A large amount of bleeding from the incision(s) or drain(s). 

 3. Fever greater than 101.5 F 
 4. Severe pain NOT relieved by your medication. 

Return to the ER if:  
 * If you are vomiting and cannot keep in fluids or your 
medications.  * If you have shaking chills, fever greater than 
101.5 (F) degrees or 38 (C) degrees, increased redness, swelling 
or discharge from incision, chest pain, shortness of breath, or 
anything else that is troubling you. 
 * Any serious change in your symptoms, or any new symptoms that 
concern you. 

 
Followup Instructions:
___